US06177440B1
A suspension of 3-(3-carbomethoxy-2-bromoanilino)-5-(4-trifluoromethylphenyl)-cyclohex-2-en-1-one (2.18 g, 4.66 mM), palladium acetate (0.10 g, 0.47 mM), tri-o-tolylphosphine (0.28 g, 0.93 mM), and triethylamine (0.8 ml, 5.78 mM) in 12 mL acetonitrile was heated at reflux for 3 hours. The solvent was removed in vacuo. The residue was dissolved in methylene chloride, washed with 1 N HCl, then with saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 2.21 g. Purification by HPLC on silica gel (elution with gradient methylene chloride/ethyl acetate) afforded 1.57 g (87%) of the 5-carbomethoxy-1,2-dihydro-2-(4-trifluoromethylphenyl)-9H-carbazol-4(3H)-one. 1H NMR (CDCl3) δ 9.2 (bs, 1H), 7.6 (d, J=8 Hz, 2H), 7.45-7.35 (m, 5H), 7.25 (d, J=8 Hz, 2H), 3.55 (m, 1H), 3.2-3.0 (m, 2H), 2.7 (m, 2H). MS (ES) m/e 356, 388.

reactant | 3-(3-carbomethoxy-2-bromoanilino)-5-(4-trifluoromethylphenyl)-cyclohex-2-en-1-one | 4.66 mM, 2.18 g | C(=O)(OC)C=1C(=C(NC2=CC(CC(C2)C2=CC=C(C=C2)C(F)(F)F)=O)C=CC1)Br | C21H17BrF3NO3
reactant | tri-o-tolylphosphine | 0.93 mM, 0.28 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 5.78 mM, 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.47 mM, 0.10 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-carbomethoxy-1,2-dihydro-2-(4-trifluoromethylphenyl)-9H-carbazol-4(3H)-one | 1.57 g, 87% | C(=O)(OC)C1=C2C=3C(CC(CC3NC2=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C21H16F3NO3
